US05919796
Preparation of O-(2,2-dimethyl-3-piperidinopropyl)-3-pyridinecarbohydroximoyl chloride
To a solution containing 2.23 g (7.63 mmoles) of N-(2,2-dimethyl-3-piperidinopropoxy)-3-pyridinecarboxamidine in 30 ml of a 1:1 mixture of concentrated hydrochloric acid and water, 2.63 g (38.2 mmoles) of sodium nitrite dissolved in 10 ml of water are dropwise added at 0° C. The reaction mixture is stirred at the same temperature for an additional 2 hours, then the pH value is adjusted to 12 by adding 2N sodium hydroxide solution, and the mixture is extracted twice with 30 ml of chloroform each. The organic phase is washed with 30 ml of water, dried over sodium sulfate, filtered and evaporated. The oily residue (1.83 g) is purified by column chromatography to give the title compound as a pale yellow oil in a yield of 1.62 g (68.5%).

reactant | N-(2,2-dimethyl-3-piperidinopropoxy)-3-pyridinecarboxamidine | 7.63 mmoles, 2.23 g | CC(CONC(=N)C=1C=NC=CC1)(CN1CCCCC1)C | C16H26N4O
reactant | hydrochloric acid | Cl | ClH
reactant | sodium nitrite | 38.2 mmoles, 2.63 g | N(=O)[O-].[Na+]
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | water | 10 ml | O | H2O
product | O-(2,2-dimethyl-3-piperidinopropyl)-3-pyridinecarbohydroximoyl chloride | CC(CON=C(C=1C=NC=CC1)Cl)(CN1CCCCC1)C | C16H24ClN3O
